### PR TITLE
feat: add Cslib/Computability/Languages/RegularLanguage.lean and associated changes

### PR DESCRIPTION
**Pull request by ctchou**
This patch proves the closure properties of regular languages under boolean operations.  We first prove that `Language.IsRegular`, which is defined in mathlib, can also be characterized using cslib's DFA and NFA.  We then prove those closure properties using `Cslib.DFA`.  The key idea is a product construction for `DA`, which allows us to prove that regular languages are closed under both union and intersection (called `add` and `inf` in Language).  The definition of `DFA.mtr` is moved to `DA.mtr`, so that it can be applied to `DA` in general.  Some miscellaneous properties about `Language` are also proved.

The closure properties under concatenation and Kleene star will be proved later.  They require some nontrivial work.

This PR depends on https://github.com/leanprover/cslib/pull/135.

### CODE REVIEW

**Comment by ctchou** [comment]
@chenson2018:  Looks like some linters have failed.  How do I run them locally on my machine?

**Comment by chenson2018** [comment]
> @chenson2018: Looks like some linters have failed. How do I run them locally on my machine?

These are from `lake test`

**Comment by ctchou** [comment]
Thanks for the info.  The linter failures should be fixed now.

File: Cslib/Computability/Automata/DA.lean [hunk 1]
```diff
@@ -6,19 +6,52 @@ Authors: Fabrizio Montesi
...
+
 structure DA (State : Type _) (Symbol : Type _) where
   /-- The initial state of the automaton. -/
   start : State
   /-- The transition function of the automaton. -/
   tr : State → Symbol → State
 
+namespace DA
+
+variable {State State1 State2 : Type _} {Symbol : Type _}
```
Comment (chenson2018) [inline Cslib/Computability/Automata/DA.lean]: These states do not need to be fixed to the same universe. This is why I prefer using `Type*` and would write:
```suggestion
variable {State State1 State2 Symbol : Type*}
```

File: Cslib/Computability/Automata/DFA.lean [hunk 2]
```diff
@@ -30,19 +29,9 @@ structure DFA (State : Type _) (Symbol : Type _) extends DA State Symbol where
...
-
-Implementation note: compared to [Hopcroft2006], the definition consumes the input list of symbols
-from the left (instead of the right), in order to match the way lists are constructed.
--/
-@[scoped grind =]
-def mtr (dfa : DFA State Symbol) (s : State) (xs : List Symbol) := xs.foldl dfa.tr s
-
-@[scoped grind =]
-theorem mtr_nil_eq {dfa : DFA State Symbol} : dfa.mtr s [] = s := by rfl
+variable {State State1 State2 : Type _} {Symbol : Type _}
```
Comment (chenson2018) [inline Cslib/Computability/Automata/DFA.lean]: Same here:
```suggestion
variable {State State1 State2 Symbol : Type*}
```

File: Cslib/Computability/Automata/DFA.lean [hunk 3]
```diff
@@ -52,13 +41,79 @@ def Accepts (dfa : DFA State Symbol) (xs : List Symbol) :=
...
+  finite_symbol := by infer_instance
+
+@[simp, scoped grind =]
+theorem one_lang [Finite Symbol] : one.language = (1 : Language Symbol) := by
+  ext xs ; constructor
+  · intro h ; by_contra h'
+    have := dropLast_append_getLast h'
+    grind
+  · rw [Language.mem_one]
+    grind
```
Comment (chenson2018) [inline Cslib/Computability/Automata/DFA.lean]:
```suggestion
  · grind [Language.mem_one]
```

File: Cslib/Computability/Automata/DFA.lean [hunk 4]
```diff
@@ -52,13 +41,79 @@ def Accepts (dfa : DFA State Symbol) (xs : List Symbol) :=
...
+
+@[scoped grind =]
+def compl (dfa : DFA State Symbol) : DFA State Symbol :=
+  { dfa with accept := (dfa.accept)ᶜ }
```
Comment (chenson2018) [inline Cslib/Computability/Automata/DFA.lean]: Here and elsewhere these parentheses aren't needed:
```suggestion
  { dfa with accept := dfa.acceptᶜ }
```

File: Cslib/Computability/Languages/Language.lean [hunk 5]
```diff
@@ -20,7 +20,35 @@ namespace Language
...
+@[simp]
+theorem mem_biSup {I : Type _} (s : Set I) (l : I → Language α) (x : List α) :
+    (x ∈ ⨆ i ∈ s, l i) ↔ ∃ i ∈ s, x ∈ l i := by
+  constructor
+  · intro h
+    obtain ⟨i, h_i, h_x⟩ := mem_iUnion₂.mp h
+    use i
+  · rintro ⟨i, h_i, h_x⟩
+    apply mem_iUnion₂.mpr
+    use i
```
Comment (chenson2018) [inline Cslib/Computability/Languages/Language.lean]:
```suggestion
  constructor <;> intro h
  · have := mem_iUnion₂.mp h 
    grind
  · apply mem_iUnion₂.mpr
    grind
```

File: Cslib/Computability/Languages/Language.lean [hunk 6]
```diff
@@ -20,7 +20,35 @@ namespace Language
...
+
+theorem biInf_insert {I : Type _} (a : I) (s : Set I) (l : I → Language α) :
+    (⨅ i ∈ insert a s, l i) = l a ⊓ ⨅ i ∈ s, l i := by
+  apply biInter_insert
+
+theorem biSup_insert {I : Type _} (a : I) (s : Set I) (l : I → Language α) :
+    (⨆ i ∈ insert a s, l i) = l a ⊔ ⨆ i ∈ s, l i := by
+  apply biUnion_insert
```
Comment (chenson2018) [inline Cslib/Computability/Languages/Language.lean]: These are special cases of [iInf_insert](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompleteLattice/Basic.html#iInf_insert) and [iSup_insert](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompleteLattice/Basic.html#iSup_insert), you could use them directly and remove these.

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 7]
```diff
@@ -0,0 +1,126 @@
...
+
+@[simp]
+theorem regular_iInf {I : Type _} [Finite I] {s : Set I} {l : I → Language Symbol}
+    (h : ∀ i ∈ s, (l i).IsRegular) : (⨅ i ∈ s, l i).IsRegular := by
+  generalize h_n : s.ncard = n
+  induction n generalizing s
+  case zero =>
+    obtain ⟨rfl⟩ := (ncard_eq_zero (s := s)).mp h_n
+    simp only [mem_empty_iff_false, not_false_eq_true, iInf_neg, iInf_top]
+    exact regular_top
```
Comment (chenson2018) [inline Cslib/Computability/Languages/RegularLanguage.lean]:
```suggestion
    simp
```

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 8]
```diff
@@ -0,0 +1,126 @@
...
+  case succ n h_ind =>
+    obtain ⟨i, t, h_i, rfl, rfl⟩ := (ncard_eq_succ (s := s)).mp h_n
+    rw [biInf_insert]
+    apply regular_inf <;> grind
```
Comment (chenson2018) [inline Cslib/Computability/Languages/RegularLanguage.lean]:
```suggestion
    have := biInf_insert i t l
    grind [regular_inf]
```

File: Cslib/Computability/Automata/DA.lean (hunk 1 above)
Comment (chenson2018) [reply Cslib/Computability/Automata/DA.lean]: I know Fabrizio has expressed a preference for `Type _`, so you could also write that for each variable individually. Both are used in Mathlib, so I think it is up to taste.

Comment (eric-wieser) [reply Cslib/Computability/Automata/DA.lean]: This spelling already does not force them to the same universe, but `Type*` is probably a good idea as it forces them to be different

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 9]
```diff
@@ -0,0 +1,126 @@
...
+-/
+
+open Set Function
+open scoped Computability
+
+namespace Language
+
+variable {Symbol : Type _} [Finite Symbol]
+
+theorem regular_iff_cslib_dfa {l : Language Symbol} :
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/RegularLanguage.lean]: I think you'd do better to define the `Equiv` between the two DFA types, then this proof follows quickly from Equiv.exists_congr

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 10]
```diff
@@ -0,0 +1,126 @@
...
+    use State, dfa.toNFA
+    exact Cslib.DFA.toNFA_language_eq
+  · rintro ⟨State, nfa, rfl⟩
+    use (Set State), nfa.toDFA
+    exact Cslib.NFA.toDFA_language_eq
+
+open Cslib
+
+@[simp]
+theorem regular_compl {l : Language Symbol} (h : l.IsRegular) : (lᶜ).IsRegular := by
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/RegularLanguage.lean]:
```suggestion
theorem IsRegular.compl {l : Language Symbol} (h : l.IsRegular) : (lᶜ).IsRegular := by
```
etc, for dot notation.

File: Cslib/Computability/Automata/DA.lean [hunk 11]
```diff
@@ -6,19 +6,52 @@ Authors: Fabrizio Montesi
...
+
+* [J. E. Hopcroft, R. Motwani, J. D. Ullman,
+  *Introduction to Automata Theory, Languages, and Computation*][Hopcroft2006]
 -/
 
 namespace Cslib
 
+open List
+
 structure DA (State : Type _) (Symbol : Type _) where
```
Comment (eric-wieser) [inline Cslib/Computability/Automata/DA.lean]: Off topic for this PR, but: why does this not have an `accepts` field? If it did then you could use `abbrev DA := _root_.DFA` (the definition from mathlib)

File: Cslib/Computability/Automata/DA.lean [hunk 12]
```diff
@@ -6,19 +6,52 @@ Authors: Fabrizio Montesi
...
   /-- The transition function of the automaton. -/
   tr : State → Symbol → State
 
+namespace DA
+
+variable {State State1 State2 : Type _} {Symbol : Type _}
+
+/-- Extended transition function.
+
+Implementation note: compared to [Hopcroft2006], the definition consumes the input list of symbols
```
Comment (eric-wieser) [inline Cslib/Computability/Automata/DA.lean]: This isn't an implementation note, this is a specification of what the function does!

File: Cslib/Computability/Automata/DA.lean (hunk 1 above)
Comment (ctchou) [reply Cslib/Computability/Automata/DA.lean]: I changed all `Type _` to `Type*`.  But I kept the separation between `State`* declarations from `Symbol` declarations because it reflects the conceptual distinction better.

File: Cslib/Computability/Automata/DFA.lean (hunk 3 above)
Comment (ctchou) [reply Cslib/Computability/Automata/DFA.lean]: Fixed.

File: Cslib/Computability/Automata/DFA.lean (hunk 4 above)
Comment (ctchou) [reply Cslib/Computability/Automata/DFA.lean]: Fixed.

File: Cslib/Computability/Languages/Language.lean (hunk 5 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: Fixed.  But I still don't understand why `mem_iUnion₂` does not unify with the goal in the same way that mem_iInter₂ does in the previous theorem.

File: Cslib/Computability/Languages/Language.lean (hunk 6 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: Fixed.

File: Cslib/Computability/Languages/RegularLanguage.lean (hunk 7 above)
Comment (ctchou) [reply Cslib/Computability/Languages/RegularLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/RegularLanguage.lean (hunk 8 above)
Comment (ctchou) [reply Cslib/Computability/Languages/RegularLanguage.lean]: I have replaced `biInf_insert` by `iInf_insert` as you suggested above. Unfortunately `iInf_insert` have only implicit (namely `{...}`) parameters and hence is not easy to explicitly instantiate.  So I will keep the `rw`.

File: Cslib/Computability/Automata/DA.lean (hunk 12 above)
Comment (ctchou) [reply Cslib/Computability/Automata/DA.lean]: Fabrizio wrote this comment.  I'll delete the "implementation note" sentence.

File: Cslib/Computability/Automata/DA.lean (hunk 11 above)
Comment (ctchou) [reply Cslib/Computability/Automata/DA.lean]: `DA` and `NA` will also be used for automata over infinite words, where there are more complex acceptance conditions such as Muller automata and Rabin automata.

File: Cslib/Computability/Languages/RegularLanguage.lean (hunk 10 above)
Comment (ctchou) [reply Cslib/Computability/Languages/RegularLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/RegularLanguage.lean (hunk 9 above)
Comment (ctchou) [reply Cslib/Computability/Languages/RegularLanguage.lean]: I'll leave the proof unchanged for now because I'm going to embark on an unbundling refactoring to get rid of DFA and NFA altogether.

**Comment by fmontesi** [comment]
Looks good to me now, minus the merge conflicts.

**Comment by ctchou** [comment]
Rebase on top of the current `main` to fix merge conflicts.

**Comment by ctchou** [comment]
Superseded by https://github.com/leanprover/cslib/pull/144.
